US06028195
1-[(2-Hydroxy-4,5-dimethylphenyl)aminocarbonyl]-4-(3,5-difluorophenyl)piperazine
Phenyl N-[2-hydroxy-4,5-dimethylphenyl)carbamate and 1-(3,5-difluorophenyl)piperazine were reacted by the same way with the example 228 to obtain the titled compound.

reactant | Phenyl N-[2-hydroxy-4,5-dimethylphenyl)carbamate | OC1=C(C=C(C(=C1)C)C)NC(OC1=CC=CC=C1)=O | C15H15NO3
reactant | 1-(3,5-difluorophenyl)piperazine | FC=1C=C(C=C(C1)F)N1CCNCC1 | C10H12F2N2
product | 1-[(2-Hydroxy-4,5-dimethylphenyl)aminocarbonyl]-4-(3,5-difluorophenyl)piperazine | yield: 80% | OC1=C(C=C(C(=C1)C)C)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)F)F | C19H21F2N3O2
